US06933319B2
cis/trans-Methyl [4-(2,4-dihydroxyphenyl)cyclohexyl]acetate
To a round bottomed flask equipped with magnetic stirrer was added cis/trans-methyl {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexyl}acetate (1.00 g, 2.84 mmol) and methanol (20 ml). The stirred solution was heated to reflux temperature and aqueous hydrochloric acid (20 ml, 1 M) was added in aliquots (4×5 ml) at 10 min intervals. After 2 hr, the reaction mixture was cooled to room temperature and saturated aqueous sodium bicarbonate (50 ml) added. The reaction mixture was poured into a separating funnel containing ethyl acetate (100 ml) and water (30 ml). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×30 ml). The combined organic layers were washed with brine (20 ml), dried over magnesium sulfate, filtered and concentrated in vacuo to give a white solid. Purification via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:2, v/v) afforded the title compound (0.51 g, 69%) as a mixture of diastereoisomers. m/z (ES+) 265 (M+H+); δH(CD3OD) 1.33-1.91 (9H, m), 2.30 (2H, m), 2.79 (1H, m), 3.72 (3H, s), 6.28 (2H, m), 6.95 (1H, m).

reactant | trans-methyl {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexyl}acetate | 2.84 mmol, 1.00 g | COCOC1=C(C=CC(=C1)OCOC)[C@@H]1CC[C@H](CC1)CC(=O)OC | C19H28O6
reactant | methanol | 20 ml | CO | CH4O
reactant | hydrochloric acid | 1 M, 20 ml | Cl | ClH
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | trans-Methyl [4-(2,4-dihydroxyphenyl)cyclohexyl]acetate | 0.51 g, 69% | OC1=C(C=CC(=C1)O)[C@@H]1CC[C@H](CC1)CC(=O)OC | C15H20O4
